US06255487B1
164 g (1.04 mol) of ethyl piperazinecarboxylate, 156.9 g (1.14 mol) of (2-chloroethoxy)acetamide, 241.7 g (2.28 mol) of sodium carbonate, 1g of potassium iodide and 200 ml of toluene are introduced into a 2 l three-necked round-bottomed flask fitted with a water-cooled condenser and a mechanical stirrer. The mixture is brought at the reflux temperature for 3 hours 30. The mixture is allowed to cool to 50° C., and 200 ml of isopropanol are added. The reaction mixture is filtered and the filtration residue is washed with 150 ml of isopropanol. The filtrate is concentrated on a rotary evaporator under reduced pressure. 277.2 g of crude product are obtained, which product is recrystallized from 500 ml of ethyl acetate. 219.2 g (81.6%) of ethyl (2-carbamoylmethoxyethyl)piperazine-1-carboxylate are obtained in the form of a white solid. NMR: δ: 1.24 (3H, t, 7.05 Hz); 2.46 (4H, m); 2.57 (2H, t, 5.2 Hz); 3.44 (4H, m); 3.62 (2H, t, 5.2 Hz); 3.95 (2H, s); 4.1 (2H, 9, 7.1 Hz); 5.72 (1H, bs); 7.34 (1H, bs). Mass spectrum: 260 (MH+). DSC: Onset 106.5° C., Max: 109.7° C. Elemental analysis:

reactant | ethyl piperazinecarboxylate | 1.04 mol, 164 g | N1(CCNCC1)C(=O)OCC | C7H14N2O2
reactant | (2-chloroethoxy)acetamide | 1.14 mol, 156.9 g | ClCCOCC(=O)N | C4H8ClNO2
reactant | sodium carbonate | 2.28 mol, 241.7 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
solvent | water | O | H2O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl (2-carbamoylmethoxyethyl)piperazine-1-carboxylate | 219.2 g, 81.6% | C(N)(=O)COCCC1N(CCNC1)C(=O)OCC | C11H21N3O4
